US06861072B1
Sustained-Release Floating Tablet Containing 3 Layers of Tiapride Hydrochloride
Two granules are prepared. For granule 1, Methocel® K100M, Avicel® PH102 and tartaric acid are dry-mixed and then granulated with water in a granulating blender and the granules obtained are then dried. The other components, magnesium stearate, Aerosile® 200 and monosodium carbonate are then dry-added and mixed. For granule 2, tiapride hydrochloride, Methocel® and Avicel® are dry-mixed and are then granulated with water in a granulating blender and the granules obtained are then dried. Magnesium stearate and Aerosile® are dry-added and mixed. 3-layer tablets are prepared, containing 250 mg of granule 1 in the first outer layer, 280 mg of granule 2 in the inner layer, which contains 100 mg of base tiapride in hydrochloride form, and 200 mg of granule 1 in the second outer layer.

reactant | tartaric acid | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
reactant | water | O | H2O
reactant | tiapride | 100 mg | CCN(CC)CCNC(=O)C=1C=C(C=CC1OC)S(=O)(=O)C | C15H24N2O4S
reactant | hydrochloride | Cl | ClH
product | Tiapride Hydrochloride | CCN(CC)CCNC(=O)C=1C=C(C=CC1OC)S(=O)(=O)C.Cl | InChI=1S/C15H24N2O4S.ClH/c1-5-17(6-2)10-9-16-15(18)13-11-12(22(4,19)20)7-8-14(13)21-3;/h7-8,11H,5-6,9-10H2,1-4H3,(H,16,18);1H
